US07482340B2
5-Amino-2-(2-phenylchroman-6-yloxy)pyridine (ORM-10543) (0.20 g, 0.63 mmol) and 37% formaldehyde (0.73 ml, 0.80 mmol) were dissolved in acetonitrile (12 ml). Sodiumcyanoborohydride (0.16 g, 2.51 mmol) was added and the mixture was stirred for 30 minutes at the room temperature. The pH was adjusted to 6-7 with acetic acid and the reaction mixture was stirred additional 30 minutes. The solvent was evaporated. The residue was solvated to 10% potassiumhydroxide solution and extracted with methylene chloride. Organic phase was dried and evaporated. Recrystallization from diethylether yielded dimethyl-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]-amine in 92% purity. Recrystallization filtrate was evaporated. The residue was solvated in methylene chloride and 1M HCl-diethylether was added. Dimethyl-[2-(2-phenylchroman-6-yloxy)-pyridin-4-yl]-amine precipitated as a hydrochloride in 95.3% purity.

reactant | 5-Amino-2-(2-phenylchroman-6-yloxy)pyridine | 0.63 mmol, 0.20 g | NC=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H18N2O2
reactant | formaldehyde | 0.80 mmol, 0.73 ml | C=O | CH2O
reactant | Sodiumcyanoborohydride | 2.51 mmol, 0.16 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | dimethyl-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]-amine | CN(C=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)C | C22H22N2O2
